US06930120B2
2-Methyl-3-{5-[3-(5-methyl-2-phenyl-oxazol-4-yl)-propyl]-thiophen-2-yl}-2-phenoxy-propionic acid
2-Methyl-3-{5-[3-(5-methyl-2-phenyl-oxazol-4-yl)-propyl]-thiophen-2-yl}-2-phenoxy-propionic acid methyl ester 400 mg) was dissolved in EtOH (10 mL), and then 5 N NaOH (3 mL) was added. This mixture was allowed to stir at 60° C. for 1 h. The mixture was cooled to room temperature and then acidified to pH=2 by the dropwise addition of 5 N HCl. This acidic mixture was diluted with H2O (10 mL) and then extracted with CH2Cl2 (2×25 mL). The organic layers were combined, dried over NaCl, and solvent removed in vacuo which provided 354 mg (92%) of desired acid: 1H NMR (400 MHz, CDCl3) δ 8.05 (d, 2H), 7.39 (m, 4H), 7.23 (m, 1H), 7.03 (t, 1H), 6.95 (d, 2H), 6.70 (d, 1H), 6.62 (d, 1H), 3.40 (d, 1H), 3.30 (d, 1H), 2.80 (t, 2H), 2.52 (t, 2H), 2.27 (s, 3H), 2.02 (m, 2H), 1.44 (s, 3H); MS (EI) 462.2 (M+H)+.

reactant | 2-Methyl-3-{5-[3-(5-methyl-2-phenyl-oxazol-4-yl)-propyl]-thiophen-2-yl}-2-phenoxy-propionic acid methyl ester | 400 mg | COC(C(CC=1SC(=CC1)CCCC=1N=C(OC1C)C1=CC=CC=C1)(OC1=CC=CC=C1)C)=O | C28H29NO4S
reactant | NaOH | 5 N, 3 mL | [OH-].[Na+]
reactant | HCl | 5 N | Cl | ClH
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | H2O | 10 mL | O | H2O
product | 2-Methyl-3-{5-[3-(5-methyl-2-phenyl-oxazol-4-yl)-propyl]-thiophen-2-yl}-2-phenoxy-propionic acid | 354 mg, 92% | CC(C(=O)O)(CC=1SC(=CC1)CCCC=1N=C(OC1C)C1=CC=CC=C1)OC1=CC=CC=C1 | C27H27NO4S
